Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Hepatic mass
 
Major Surgical or Invasive Procedure:
___ hepatic segment V/VI resection

 
History of Present Illness:
Per Dr. ___ note: ___-
old female who presented with a 2-month history of right
upper quadrant abdominal pain and a right upper quadrant
ultrasound demonstrated a 9 x 8.5 cm mass in the right lobe.
CT scan demonstrated a 7.3 cm mass involving the inferior tip
of the right lobe of the liver. MRI on ___ demonstrated a
well-circumscribed 6.9 x 6.6 x 7.7 cm mass consistent with a
hepatic adenoma in segments V/VI. Liver function tests were
normal. Tumor markers including AFP, CEA and ___ were
normal. Because of her symptoms, the large size of the mass,
the risk of rupture, hemorrhage, and evolution into
hepatocellular carcinoma, the patient is brought to the
operating room for segmental resection of the mass. She has
provided informed consent.

 
Past Medical History:
PMH: GERD, anxiety, migraine headaches, obesity, ruptured 
ovarian cyst.  
.  
PSH: breast augmentation, tonsillectomy, deviated septum surgery 
 
.  

 
Social History:
___
Family History:
father died at ___ of lung and brain cancer. Mother is ___ and has 
diverticulitis,maternal grandmother is ___ with multiple medical 
problems. Maternal grandfather died of unknown causea. Paternal 
grandmother died of breast cancer and paternal grandfather died 
of lung cancer in his ___. 
 
Physical Exam:
99.4  87  136/73  18  99% RA
lungs clear
cor rrr
abd normal bowel sounds, no hsm, tender ruq to deep palpation. 
inferior tip of the liver palpated ~ 5cm below the right costal 
ext peripheral edema 

 
Pertinent Results:
___ 10:30AM BLOOD WBC-13.1*# RBC-4.23 Hgb-10.7* Hct-34.2* 
MCV-81* MCH-25.3* MCHC-31.2 RDW-14.0 Plt ___
___ 06:15AM BLOOD WBC-6.5 RBC-3.30* Hgb-8.5* Hct-27.1* 
MCV-82 MCH-25.8* MCHC-31.4 RDW-14.0 Plt ___
___ 05:40AM BLOOD ___ PTT-24.9 ___
___ 05:40AM BLOOD Glucose-131* UreaN-6 Creat-0.5 Na-138 
K-3.9 Cl-107 HCO3-25 AnGap-10
___ 05:40AM BLOOD ALT-128* AST-74* AlkPhos-70 Amylase-25 
TotBili-0.2
___ 05:40AM BLOOD Albumin-3.3* Calcium-7.9* Phos-2.0* 
Mg-1.9
 
Brief Hospital Course:
On ___, she underwent Segment V mass resection and 
intraoperative ultrasound for hepatic adenoma. An epidural was 
placed for pain control. Surgeon was Dr. ___. 
Operative findings were noted: solitary mass in segment V of the 
liver that on gross appearance looked like a hepatic adenoma. 
Frozen section confirmed probable hepatic adenoma. 
Intraoperative ultrasound demonstrated no other lesions in the 
liver. Intraoperative ultrasound after the mass was enucleated 
demonstrated no residual tumor tissue. Please refer to operative 
note for details. Postop, epidural was ineffective for pain 
control. IV Morphine was given then switched to IV dilaudid with 
improved control. The epidural was removed on ___. 

She spiked a temperature to 101 on postop day 1 attributed to 
atelectasis, but blood cultures were sent and were negative to 
date. UA was negative and urine culture was negative. 

LFTs increased slightly then trended down. Diet was slowly 
advanced. She was assisted to ambulate and needed a lot of 
encouragement to do this as well as with the incentive 
spirometer. The incision remained intact, clean and dry. 

On ___, she became dizzy, desat'd to ___ with increased heart 
rate to 120. This improved once back in bed. A CXR was done 
noting near-complete collapse of the right lower lobe presumably 
due to mucus plugging. Aggressive incentive spirometer was 
encouraged. She remained overnight for observation. Augmentin 
was started for RLL pneumonia. O2 sats improved as well as 
dizziness. Other vitals were stable. 

She was discharged to home on Augmentin in stable condition. A 
script for oral dilaudid was provided. She was encouraged to 
decrease the dose. 
 
Medications on Admission:
clonazepam 1mg prn bid, effexor 150mg qd, omeprazole 40mg bid, 
 
Discharge Medications:
1. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
2. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO PRN (as needed) 
as needed for anxiety.  
3. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): over the counter.  
5. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
6. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 10 days: right lower lobe pneumonia.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hepatic adenoma
RLL pneumonia

 
Discharge Condition:
good

 
Discharge Instructions:
Please call Dr. ___ ___ if fever, chills, 
shortness of breath, chest pain, increased phlegm, nausea, 
vomiting, increased abdominal distension, increased incision 
pain, incision redness/drainage 
___ shower
No heavy lifting/straining
No driving while taking pain medication

 
Followup Instructions:
___